Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bilateral lower extremity numbness and weakness 
 
Major Surgical or Invasive Procedure:
___: C6-C7 laminectomy

 
History of Present Illness:
___ yo M with gradual inability to walk due to lower limb 
weakness
and imbalance. The problem started ___ m ago and he could walk
using a cane first, but gradually decreased and had more falls.
Currently he is totally wheelchair bound. He denies paresthesias
in hand or legs.
 
Past Medical History:
hypertension
Diabetes 
2 times laminectomy (lower thoracic) in ___ and ___ in ___

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
UPON DISCHARGE: 
General: No acute distress
Pulmonary: Breathing comfortably on room air. 
Neuro: 
 Patient is oriented to person, place and date. 
 Opening eyes spontaneously and interacting with exam. 
 Following complex commands.
 Speech fluent and comprehension intact. 

Motor:
TrapDeltoidBicepTricepGrip
Right555       5       5 
Left555       5       5 

IPQuadHamATEHLGast
Right322       0       0       3
Left3       2       2       0       0       3

Wound: [x] Clean, dry, intact 

 
Pertinent Results:
Please refer to ___ for relevant imaging and lab results 
 
Brief Hospital Course:
Mr. ___ was electively admitted for C6-7 laminectomy. 

# cervical spondylosis 
On ___ he was taken to the OR and underwent C6-7 laminectomy 
with Dr. ___. Procedure was uncomplicated, please see 
operative report for full details. No postop imaging was 
indicated. He was given soft collar for comfort. He regained 
some strength/sensation postop. He was evaluated by ___, who 
recommended acute rehab at discharge. On POD#2 his pain remained 
well controlled, he was tolerating PO diet, and voiding with 
condom catheter. He was cleared to discharge to rehab in stable 
condition. 
 
Medications on Admission:
carvedilol 25 mg daily
furosemide 40 mg daily
lisinopril 20 mg daily
metformin 500 mg daily
cholecalciferol (vitamin D3) 2,000 unit cap daily
    
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Diazepam 5 mg PO Q8H:PRN muscle spasm  
3.  Docusate Sodium 100 mg PO BID  
4.  Heparin 5000 UNIT SC BID  
5.  Insulin SC 
      Sliding Scale
Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
6.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN pain  
7.  Senna 17.2 mg PO QHS  
8.  Carvedilol 25 mg PO BID  
9.  Furosemide 40 mg PO DAILY  
10.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cervical Spondylosis
Severe stenosis due to ligamentous calcification 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Surgery
• Your dressing was removed the second day after surgery. 
• Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
• Do not apply any lotions or creams to the site. 
• Please avoid swimming for two weeks after suture/staple 
removal.
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• No contact sports until cleared by your neurosurgeon. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___